US07351719B2
Z4b) N-[3-chloro-4-(2-oxo-ethoxy)-phenyl]-2-(2,4-dichloro-phenoxy)-acetamide
At 0° C. 2 mL TFA and 0.15 mL water was added to a solution of 50 mg (0.011 mmol) of N-[3-chloro-4-(2,2-diethoxy-ethoxy)-phenyl]-2-(2,4-dichloro-phenoxy)-acetamide in 2 mL dichloromethane and the mixture was stirred for 3.5 hours. 200 ml of 2 M aqueous sodium carbonate solution was added and exhaustively extracted with dichloromethane. The combined org. extracts were dried over magnesium sulphate, evaporated down i. vac. and the residue was purified by column chromatography (silica gel, EtOAc/hexane 1:1).

reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | water | 0.15 mL | O | H2O
reactant | N-[3-chloro-4-(2,2-diethoxy-ethoxy)-phenyl]-2-(2,4-dichloro-phenoxy)-acetamide | 0.011 mmol, 50 mg | ClC=1C=C(C=CC1OCC(OCC)OCC)NC(COC1=C(C=C(C=C1)Cl)Cl)=O | C20H22Cl3NO5
reactant | sodium carbonate | 2 M, 200 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-[3-chloro-4-(2-oxo-ethoxy)-phenyl]-2-(2,4-dichloro-phenoxy)-acetamide | ClC=1C=C(C=CC1OCC=O)NC(COC1=C(C=C(C=C1)Cl)Cl)=O | C16H12Cl3NO4
